US04563472
1-(2',3',3'-Triiodoallyl)-3-nitropyrrole
To a solution of 112 mg (1 mmole) of 3-nitropyrrole in 5.0 ml of dry N,N-dimethylformamide were added 606 mg of 2,3,3-triiodoallyl-p-toluenesulfonate and 60 mg (1.5 mmoles) of powdery sodium hydroxide and the reaction was carried out with stirring for 15 minutes.

reactant | 3-nitropyrrole | 1 mmole, 112 mg | [N+](=O)([O-])C1=CNC=C1 | C4H4N2O2
reactant | 2,3,3-triiodoallyl-p-toluenesulfonate | 606 mg | IC(COS(=O)(=O)C1=CC=C(C=C1)C)=C(I)I | C10H9I3O3S
reactant | sodium hydroxide | 1.5 mmoles, 60 mg | [OH-].[Na+]
solvent | N,N-dimethylformamide | 5.0 ml | CN(C=O)C | C3H7NO
product | 1-(2',3',3'-Triiodoallyl)-3-nitropyrrole | IC(CN1C=C(C=C1)[N+](=O)[O-])=C(I)I | C7H5I3N2O2
